US03963717
A solution of 4.8 g. of 1-isopropyl-1-(2,3-dihydro-7-benzofuranyl)urea, 3.4 ml of benzaldehyde, 3 drops of methanesulfonic acid and 150 ml. of toluene is stirred and refluxed under a water separator for 18 hours. The cooled solution is washed with 150 ml. of water, dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo to give an oil of 1-isopropyl-3,4,7,8-tetrahydro-4-phenyl-furo[3,2-h]quinazolin-2(1H)-one.

reactant | 1-isopropyl-1-(2,3-dihydro-7-benzofuranyl)urea | C(C)(C)N(C(=O)N)C1=CC=CC=2CCOC21 | C12H16N2O2
reactant | benzaldehyde | 3.4 ml | C(C1=CC=CC=C1)=O | C7H6O
catalyst | methanesulfonic acid | 3 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-isopropyl-3,4,7,8-tetrahydro-4-phenyl-furo[3,2-h]quinazolin-2(1H)-one | C(C)(C)N1C(NC(C2=CC=C3C(=C12)OCC3)C3=CC=CC=C3)=O | C19H20N2O2
